US09359338B2
Step 2: Synthesis of 1-(2-fluoroethyl)-4-(3-nitro-5-(trifluoromethyl)phenyl)piperazine
Mix (3-nitro-5-(trifluoromethyl)phenyl)piperazine (200 mg, 0.73 mmol), 2-fluoroethyl 4-methylbenzenesulfonate (320 mg, 1.46 mmol) and 4-dimethylaminopyridine (50 mg, 0.37 mmol) in THF (15 mL), stir at 90° C. overnight. TLC (EtOAc:PE=1:1) shows the reaction is complete. Concentrate under reduced pressure to give a residue, purify the residue by flash chromatography (silica gel, PE:EtOAc=1:1) to yield a white solid as the target compound (120 mg, 51%).

reactant | (3-nitro-5-(trifluoromethyl)phenyl)piperazine | 0.73 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12F3N3O2
reactant | 2-fluoroethyl 4-methylbenzenesulfonate | 1.46 mmol, 320 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCF | C9H11FO3S
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.37 mmol, 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(2-fluoroethyl)-4-(3-nitro-5-(trifluoromethyl)phenyl)piperazine | 120 mg, 51% | FCCN1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C13H15F4N3O2
